US07410963B2
3-[7-(2,6-Dimethoxy-phenyl)-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile
Prepared from 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 9 using the same method described for Example 1 and instead of using benzene boronic acid, we used 2,6-dimethoxyphenyl boronic acid. The title compound (83 mg) was obtained as a pale green solid, (yield=44%).

reactant | 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | BrC1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1OC | C18H14BrN3O2
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2,6-dimethoxyphenyl boronic acid | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
product | 3-[7-(2,6-Dimethoxy-phenyl)-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | 83 mg, yield=44% | COC1=C(C(=CC=C1)OC)C1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1OC | C26H23N3O4
